US05130309
3-[3-(Trifluoromethyl)phenoxy]-1-[1-phenylethyl]azetidine ethanedioate (1:1)
The maleate of 1-[1-phenylethyl]-3-hydroxyazetidine weighing 71.5 g (0.244 mole) was partitioned between toluene and a dilute sodium hydroxide solution. The toluene layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in 100 ml dry dimethylformamide and was added dropwise to 13.8 g (0.29 mole) of 50% sodium hydride (in mineral oil) suspended in 400 ml of dry dimethylformamide at 70° C. The temperature and stirring were maintained for 1 hr; then 40 g (0.244 mole) of 3-trifluoromethyl fluorobenzene was added, and the mixture brought to reflux for 5 hr. An equal volume of water was added, and the mixture was made acidic by adding dilute hydrochloric acid and washed with 300 ml isopropyl ether. The aqueous acidic layer was then basified by adding dilute sodium hydroxide solution and extracted with isopropyl ether. This isopropyl ether layer was dried, filtered, and concentrated in vacuo. The residue was dissolved in isopropyl alcohol and treated with 15 g of oxalic acid. The resulting salt was recrystallized from isopropyl alcohol to yield 76 g (75%); mp 150°-153° C.

reactant | maleate | C(\C=C/C(=O)[O-])(=O)[O-]
reactant | 1-[1-phenylethyl]-3-hydroxyazetidine | 0.244 mole, 71.5 g | C1(=CC=CC=C1)C(C)N1CC(C1)O | C11H15NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydride | 0.29 mole, 13.8 g | [H-].[Na+]
reactant | 3-trifluoromethyl fluorobenzene | 0.244 mole, 40 g | FC(C=1C=C(C=CC1)F)(F)F | C7H4F4
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[3-(Trifluoromethyl)phenoxy]-1-[1-phenylethyl]azetidine ethanedioate | C(C(=O)O)(=O)O.FC(C=1C=C(OC2CN(C2)C(C)C2=CC=CC=C2)C=CC1)(F)F | InChI=1S/C18H18F3NO.C2H2O4/c1-13(14-6-3-2-4-7-14)22-11-17(12-22)23-16-9-5-8-15(10-16)18(19,20)21;3-1(4)2(5)6/h2-10,13,17H,11-12H2,1H3;(H,3,4)(H,5,6)
